* NGSPICE file created from ota_5t.ext - technology: gf180mcuD

.subckt ota_5t vdd vss inp inm out vb
X0 vdd a_n3006_4433# out vdd pfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X1 vdd a_n3006_4433# a_n3006_4433# vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X2 vss vb w_n4092_3504# vss nfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X3 vdd a_n3006_4433# out vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X4 w_n4092_3504# inm out w_n4092_3504# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X5 w_n4092_3504# inm out w_n4092_3504# nfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X6 vss vb w_n4092_3504# vss nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X7 w_n4092_3504# inp a_n3006_4433# w_n4092_3504# nfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X8 w_n4092_3504# vb vss vss nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X9 vdd a_n3006_4433# a_n3006_4433# vdd pfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X10 w_n4092_3504# vb vss vss nfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X11 w_n4092_3504# inp a_n3006_4433# w_n4092_3504# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X12 out a_n3006_4433# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X13 out inm w_n4092_3504# w_n4092_3504# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X14 out a_n3006_4433# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X15 out inm w_n4092_3504# w_n4092_3504# nfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X16 a_n3006_4433# a_n3006_4433# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X17 a_n3006_4433# a_n3006_4433# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X18 a_n3006_4433# inp w_n4092_3504# w_n4092_3504# nfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X19 a_n3006_4433# inp w_n4092_3504# w_n4092_3504# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
.ends

